US08580794B2
6-((4-fluorotetrahydro-2H-pyran-4-yl)methoxy)pyridine-3-sulfonamide
To a suspension of 5-bromo-6-((4-fluorotetrahydro-2H-pyran-4-yl)methoxy)pyridine-3-sulfonamide (200 mg) and cyclohexene (0.549 mL) in ethyl acetate (10 mL) was added 10% palladium on carbon (57.6 mg). The suspension was stirred for 60 minutes at 120° C. The reaction mixture was filtered and concentrated. The product was purified by reverse-phase flash chromatography (C18, 150 g, 10%-100% acetonitrile/H2O/trifluoroacetic acid 0.1%).

reactant | 5-bromo-6-((4-fluorotetrahydro-2H-pyran-4-yl)methoxy)pyridine-3-sulfonamide | 200 mg | BrC=1C=C(C=NC1OCC1(CCOCC1)F)S(=O)(=O)N | C11H14BrFN2O4S
reactant | cyclohexene | 0.549 mL | C1=CCCCC1 | C6H10
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 57.6 mg | [Pd] | Pd
product | 6-((4-fluorotetrahydro-2H-pyran-4-yl)methoxy)pyridine-3-sulfonamide | FC1(CCOCC1)COC1=CC=C(C=N1)S(=O)(=O)N | C11H15FN2O4S
